US04207320
10-(1,1-Dimethylethyl)-3-(1-pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A mixture of 141 g. of 10-(1,1-dimethylethyl)-3-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide, 725 ml. of N-methyl-2-pyrrolidinone and 75 ml. of pyrrolidine is stirred and heated at reflux for 1 hour, then cooled and diluted with 3.6 l. of ethyl acetate. The resulting precipitate of 10-(1,1-dimethylethyl)-3-(1-pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration, washed with water and dried; m.p. >360° C.

reactant | 10-(1,1-dimethylethyl)-3-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].CC(C)(C)C1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)F)C3
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 10-(1,1-Dimethylethyl)-3-(1-pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].CC(C)(C)C1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)N1CCCC1)C3 | InChI=1S/C27H28N3.HI/c1-27(2,3)21-8-11-25-19(16-21)6-9-23-18-29-24-12-10-22(28-14-4-5-15-28)17-20(24)7-13-26(29)30(23)25;/h6-13,16-18H,4-5,14-15H2,1-3H3;1H/q+1;/p-1
